US07153871B2
To a solution of 2-acetyl-7-methoxy-N-(4-carboxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzofuran (416 mg, 1.0 mmol), benzenesulfonamide (200 mg, 1.2 mmol), and DMAP (150 mg, 1.2 mmol) in dichloromethane (5 mL) at room temperature was added EDCI (230 mg, 1.2 mmol) in one portion and the mixture was stirred at room temperature for 16 h. The mixture was partitioned between water (25 mL) and EtOAc (25 mL) and the pH was adjusted to 5–6 with 1.0N HCl. The EtOAc was separated, washed with brine (25 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography eluting with a linear gradient from 5% to 10% MeOH in EtOAc to give 2-Acetyl-7-methoxy-N-(4-phenylsulfonylaminocarbonylphenyl)-N-(3-pyridylmethyl)-4-aminobenzofuran (415 mg). 1H NMR (300 MHz) δ 8.53 (br,1H), 8.46 (br,1H), 8.06 (d,J=7.3 Hz,2H), 7.8–7.3 (m,6H), 7.21 (m,1H), 7.1–7.0 (m,2H), 6.91 (d,J=8.5 Hz,1H), 6.56 (d,J=7.3 Hz,2H), 4.99 (s,2H), 4.02 (s,3H), 2.54 (s,3H).

reactant | 2-acetyl-7-methoxy-N-(4-carboxyphenyl)-N-(3-pyridylmethyl)-4-aminobenzofuran | 1.0 mmol, 416 mg | C(C)(=O)C=1OC2=C(C1)C(=CC=C2OC)N(CC=2C=NC=CC2)C2=CC=C(C=C2)C(=O)O | C24H20N2O5
reactant | benzenesulfonamide | 1.2 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | EDCI | 1.2 mmol, 230 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 1.2 mmol, 150 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Acetyl-7-methoxy-N-(4-phenylsulfonylaminocarbonylphenyl)-N-(3-pyridylmethyl)-4-aminobenzofuran | 415 mg | C(C)(=O)C=1OC2=C(C1)C(=CC=C2OC)N(CC=2C=NC=CC2)C2=CC=C(C=C2)C(=O)NS(=O)(=O)C2=CC=CC=C2 | C30H25N3O6S
